datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]#[C:2][C:3]([H:7])([H:8])[H:9])([H:4])([H:5])[H:6].[C:10]([C:11]([C:12]([H:22])([H:23])[H:24])[c:13]1[c:14]([H:25])[c:15]([H:26])[c:16]([H:27])[c:17]([H:28])[c:18]1[H:29])([H:19])([H:20])[H:21]>>[C:0]([C:1](=[C:2][C:3]([H:7])([H:8])[H:9])[C:11]([C:10]([H:19])([H:20])[H:21])([C:12]([H:22])([H:23])[H:24])[c:13]1[c:14]([H:25])[c:15]([H:26])[c:16]([H:27])[c:17]([H:28])[c:18]1[H:29])([H:4])([H:5])[H:6],50.0406
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[C:17]([O:18][O:19])([H:20])([H:21])[H:22]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:6])[H:7].[H:5][O:19][O:18][C:17]([H:20])([H:21])[H:22],76.48352
[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([C:5](=[C:6]([H:17])[H:18])[C:7](=[C:8]([H:20])[H:21])[H:19])([H:15])[H:16])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:2]1([C:3]([H:12])([H:13])[H:14])[C:4]([H:15])([H:16])[C:5]([C:7](=[C:8]([H:20])[H:21])[H:19])[C:6]1([H:17])[H:18])[H:11])([H:9])[H:10],153.134
[C:0](=[C:1]([H:3])[H:4])[H:2].[N:5]=[O:6]>>[C:0](#[C:1][H:4])[H:2].[H:3][N:5]=[O:6],4.184
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([C:5]([C:6]([C:7](=[C:8]([C:9](=[C:10]([H:24])[H:25])[H:23])[H:22])[H:21])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:11]>>[C:0](#[C:1][C:2]1([C:3]([H:12])([H:13])[H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]([H:19])([H:20])[C:7]1([C:8]([C:9](=[C:10]([H:24])[H:25])[H:23])[H:22])[H:21])[H:11],45.3127
[C:0](=[C:1]([C:2](=[C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[H:14])[H:13])[H:12])([H:10])[H:11].[H:20]>>[C:0](=[C:1]([C:2]([C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[H:14])([H:13])[H:20])[H:12])([H:10])[H:11],12.301
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[C:17]([O:18])([H:19])([H:20])[H:21]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[H:10][O:18][C:17]([H:19])([H:20])[H:21],20.92
[C:0]([C:1]([C:2]([O:3][O:4])([H:13])[H:14])([C:5]([C:6]([H:16])([H:17])[H:18])([O:7][O:8][H:19])[H:15])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([O:3][O:4][H:12])([H:13])[H:14])[C:5]([C:6]([H:16])([H:17])[H:18])([O:7][O:8][H:19])[H:15])([H:9])([H:10])[H:11],113.3864
[C:0]1([H:3])([H:4])[C:1]([H:5])([H:6])[O:2]1.[O:7][H:8]>>[C:0]1([H:4])[C:1]([H:5])([H:6])[O:2]1.[H:3][O:7][H:8],15.10424
[C:0]([C:1](=[C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:8])([H:5])([H:6])[H:7].[C:15]([C:16]([C:17]([H:27])([H:28])[H:29])[c:18]1[c:19]([H:30])[c:20]([H:31])[c:21]([H:32])[c:22]([H:33])[c:23]1[H:34])([H:24])([H:25])[H:26]>>[C:0]([C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[C:16]([C:15]([H:24])([H:25])[H:26])([C:17]([H:27])([H:28])[H:29])[c:18]1[c:19]([H:30])[c:20]([H:31])[c:21]([H:32])[c:22]([H:33])[c:23]1[H:34])[H:8])([H:5])([H:6])[H:7],43.7646
[C:0]([C:1]([C:2]([H:14])([H:15])[H:16])[C:3]([C:4]([C:5]([C:6]([C:7](=[C:8]([C:9]([H:26])([H:27])[H:28])[C:10]([H:29])([H:30])[H:31])[H:25])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:11])([H:12])[H:13]>>[C:0]([C:1]1([C:2]([H:14])([H:15])[H:16])[C:3]([H:17])([H:18])[C:4]([H:19])([H:20])[C:5]([H:21])([H:22])[C:6]([H:23])([H:24])[C:7]1([C:8]([C:9]([H:26])([H:27])[H:28])[C:10]([H:29])([H:30])[H:31])[H:25])([H:11])([H:12])[H:13],34.0578
[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])[H:6])[H:5].[C:8]([c:9]1[c:10]([H:18])[c:11]([H:19])[c:12]([H:20])[c:13]([H:21])[c:14]1[H:22])([H:15])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])([H:6])[H:15])[H:5].[C:8]([c:9]1[c:10]([H:18])[c:11]([H:19])[c:12]([H:20])[c:13]([H:21])[c:14]1[H:22])([H:16])[H:17],66.1072
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10](=[C:11]([C:12]([C:13](=[C:14]([H:20])[H:21])[H:19])[H:18])[H:17])([H:15])[H:16]>>[C:0]([C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])([H:6])[C:12]([C:11](=[C:10]([H:15])[H:16])[H:17])([C:13](=[C:14]([H:20])[H:21])[H:19])[H:18])([H:4])[H:5],74.8936
[C:0](#[C:1][C:2](=[C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])[H:11])[H:10].[C:18](=[C:19]([H:21])[H:22])[H:20]>>[C:0](#[C:1][C:2]([C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])([H:11])[C:18](=[C:19]([H:21])[H:22])[H:20])[H:10],5.48104
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([C:10]([C:11]([H:19])([H:20])[H:21])([C:12]([O:13][O:14])([H:22])[H:23])[H:18])([H:15])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][O:14][O:13][C:12]([C:10]([C:9]([H:15])([H:16])[H:17])([C:11]([H:19])([H:20])[H:21])[H:18])([H:22])[H:23],55.5974104
[C:0]([C:1]([C:2]([O:3][O:4][H:15])([C:5]([C:6]([H:17])([H:18])[H:19])([O:7][O:8])[H:16])[H:14])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([O:3][O:4][H:15])([C:5]([C:6]([H:17])([H:18])[H:19])([O:7][O:8][H:9])[H:16])[H:14])([H:12])[H:13])([H:10])[H:11],83.68
